US08440689B2
A. 6-((3R,4R)-3-Aminotetrahydro-2H-pyran-4-ylamino)-2-(2,4-dimethoxybenzyl)-7-fluoro-4-(pyrazolo[1,5-a]pyridin-3-yl)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one
To a 5 mL microwave vial with a stir bar was added bis(triphenylphosphine)palladium chloride (11.68 mg, 0.017 mmol), 6-((3R,4R)-3-aminotetrahydro-2H-pyran-4-ylamino)-4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one (75 mg, 0.166 mmol), pyrazolo[1,5-a]pyridin-3-ylboronic acid (135 mg, 0.832 mmol) in dioxane (2 mL), and saturated aq NaHCO3 (2 mL). The mixture was heated in a Biotage Initiator microwave at 120° C. for 30 min. The mixture was concentrated and purified via preparative HPLC to give the title compound (89 mg, 100%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.82-1.84 (m, 1H), 2.10-2.12 (m, 1H), 3.68-3.72 (m, 3H), 3.75 (s, 3H), 3.82 (s, 3H), 3.92-3.95 (m, 1H), 4.01-4.02 (m, 1H), 4.39 (s, 2H), 4.55-4.58 (m, 1H), 4.59 (s, 2H), 6.50 (dd, J=8.30, 1.95 Hz, 1H), 6.60 (d, J=2.44, 1H), 7.04-7.08 (m, 2H), 7.16 (d, J=5.86 Hz, 1H), 7.48-7.51 (m, 1H), 7.93 (br s, 1H), 8.37 (d, J=9.27 Hz, 1H), 8.79 (d, J=6.83 Hz, 1H), 9.36 (s, 1H). [M+H] calc'd for C28H29FN6O4, 533; found, 533.

reactant | 6-((3R,4R)-3-aminotetrahydro-2H-pyran-4-ylamino)-4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 0.166 mmol, 75 mg | N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)Cl)C(N(C2)CC2=C(C=C(C=C2)OC)OC)=O)F | C21H24ClFN4O4
reactant | pyrazolo[1,5-a]pyridin-3-ylboronic acid | 0.832 mmol, 135 mg | N1=CC(=C2N1C=CC=C2)B(O)O | C7H7BN2O2
reactant | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium chloride | 0.017 mmol, 11.68 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-((3R,4R)-3-Aminotetrahydro-2H-pyran-4-ylamino)-2-(2,4-dimethoxybenzyl)-7-fluoro-4-(pyrazolo[1,5-a]pyridin-3-yl)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 89 mg, 100% | N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)C=1C=NN3C1C=CC=C3)C(N(C2)CC2=C(C=C(C=C2)OC)OC)=O)F | C28H29FN6O4
